US08895544B2
5-Ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazol[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt
A 1M solution of boron tribromide in DCM (4.54 mL, 4.54 mmol) was added dropwise to a solution of 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine (Preparation 24, 739 mg, 1.13 mmol) in DCM (10 mL) at 0° C. The resulting solution was stirred at room temperature for 18 hours. Further boron tribromide (4.54 mL, 4.54 mmol) was added dropwise and the reaction was allowed to stir at room temperature for 5 hours. Precipitated solid was collected by filtration, washed with tBME, then triturated with EtOAc to yield the title compound as the trihydrobromide salt (665 mg) in a 94% yield.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine | 1.13 mmol, 739 mg | C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1 | C22H22FN5O
reactant | boron tribromide | 4.54 mmol, 4.54 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4.54 mmol, 4.54 mL | C(Cl)Cl | CH2Cl2
product | 5-Ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazol[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 94% yield | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1 | InChI=1S/C21H20FN5O.3BrH/c1-2-11-8-19(28)15(22)9-14(11)12-3-4-13-17(7-12)26-27-20(13)21-24-16-5-6-23-10-18(16)25-21;;;/h3-4,7-9,23,28H,2,5-6,10H2,1H3,(H,24,25)(H,26,27);3*1H
